US09376408B2
(2S)-2-Amino-1-(3,5-bis(trifluoromethyl)phenyl)propan-1-ol (2 g, 6.96 mmol) in acetonitrile (50 ml) was cooled to 0° C., and DIPEA (2.2 ml, 12.5 mmol) was added, followed by Boc2O (1.62 ml, 6.96 mmol). The reaction was warmed to r.t. and stirred for 3 hours. The reaction was diluted with 50% EtOAc in hexane, then was washed with water and then brine. The organic layer was dried over Na2SO4, filtered and concentrated. Crude product was purified by column chromatography to yield tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxypropan-2-yl)carbamate. The crude material was judged to have a 4:1 diastereomeric ratio by 1H NMR analysis.

reactant | (2S)-2-Amino-1-(3,5-bis(trifluoromethyl)phenyl)propan-1-ol | 6.96 mmol, 2 g | N[C@H](C(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C11H11F6NO
reactant | DIPEA | 12.5 mmol, 2.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 6.96 mmol, 1.62 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxypropan-2-yl)carbamate | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@H](C)NC(OC(C)(C)C)=O)O)(F)F | C16H19F6NO3
